US08530491B2
d) 2,4-diamino-6-ethyl-5-(3-(6-chloroquinolin-4-yloxy)propoxy)pyrimidine dihydrochloride
To a suspension of 2,4-diamino-6-ethyl-5-(3-(6-chloroquinolin-4-yloxy)propoxy)pyrimidine (0.5608 g, 1.5 mmol) in methanol (1 mL) was added two equivalents of concentrated HCl. The titled compound was obtained, after trituration of the reaction mixture with diethyl ether, as a off-white crystalline solid (0.6366 g, 95%). 1H NMR (500 MHz, DMSO-d6): 1.09 (3H, t, J=7.7 Hz), 2.43 (2H, m), 2.48 (2H, m), 3.99 (2H, t, J=6.2 Hz), 4.70 (2H, t, J=5.9 Hz), 7.55 (2H, bs), 7.64 (1H, d, J=6.6 Hz), 7.95 (1H, s), 3.15 (1H, dd, J=9.1, 2.4 Hz), 8.37 (2H, m), 8.41 (1H, d, J=9.1 Hz), 9.22 (1H, d, J=6.5 Hz), 12.80 (1H, s).

reactant | 2,4-diamino-6-ethyl-5-(3-(6-chloroquinolin-4-yloxy)propoxy)pyrimidine | 1.5 mmol, 0.5608 g | NC1=NC(=C(C(=N1)N)OCCCOC1=CC=NC2=CC=C(C=C12)Cl)CC | C18H20ClN5O2
reactant | HCl | two equivalents | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
product | 2,4-diamino-6-ethyl-5-(3-(6-chloroquinolin-4-yloxy)propoxy)pyrimidine dihydrochloride | Cl.Cl.NC1=NC(=C(C(=N1)N)OCCCOC1=CC=NC2=CC=C(C=C12)Cl)CC | InChI=1S/C18H20ClN5O2.2ClH/c1-2-13-16(17(20)24-18(21)23-13)26-9-3-8-25-15-6-7-22-14-5-4-11(19)10-12(14)15;;/h4-7,10H,2-3,8-9H2,1H3,(H4,20,21,23,24);2*1H
